US05006570
Step I - Preparation of 6-Mercaptochroman-8-carboxylic acid-Intermediate (I)
238 g of 6-chlorosulphonylchroman-8- carboxylic acid and 645 ml of acetic acid were introduced into a 6-liter round-bottomed flask. The mixture was heated to 80° C. and 384 g of tin was added and the mixture was then cooled to 50° C. 1720 ml of hydrochloric acid (d=1.18) were then poured in dropwise, while maintaining the temperature between 55° and 60° C. first by cooling in an ice bath and then by heating in a water bath. Heating was then continued for 3 hours at 60° C. and the solution was poured into 6 liters of water. The precipitate formed was drained, washed with 1 liter of dilute hydrochloric acid followed by water and then air-dried.

reactant | 6-chlorosulphonylchroman-8- carboxylic acid | 238 g | ClS(=O)(=O)C=1C=C2CCCOC2=C(C1)C(=O)O | C10H9ClO5S
reactant | acetic acid | 645 ml | C(C)(=O)O | C2H4O2
reactant | tin | 384 g | [Sn] | Sn
reactant | hydrochloric acid | 1720 ml | Cl | ClH
solvent | water | 6 liters | O | H2O
product | 6-Mercaptochroman-8-carboxylic acid | SC=1C=C2CCCOC2=C(C1)C(=O)O | C10H10O3S
